US04287135
As described in example 4 50 grams (0.27 moles) of azelaic acid were treated with 72.3 grams (1.06 moles) of 50% aqueous hydrogen peroxide in 70 ml of concentrated sulfuric acid. After the addition of 170 grams of an aqueous solution of MgSO4 the reaction mixture was cooled and treated with an aqueous solution of Mg(OH)2 until a pH-value of 3 was obtained. The solids were separated by filtration and after drying there were obtained 99.5 grams of diperoxyazelaic acid, desensitized with MgSO4. The content of peroxy-acid is 39.2%.

reactant | azelaic acid | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | hydrogen peroxide | 1.06 moles, 72.3 grams | OO | H2O2
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | diperoxyazelaic acid | 99.5 grams | C(CCCCCCCC(=O)OO)(=O)OO | C9H16O6
